US04343811
2-[2-(4-Methoxy-phenyl)-3-methyl-1-propyl-1H-indole-5-yloxy]-2-methyl-propanoic acid ethylester
In accordance with a procedure analogous to that of Example 10, the above compound was prepared from 2-(4-methoxy-phenyl)-3-methyl-1-propyl-1H-indole-5-ol and 2-bromo-2-methyl-propanoic acid ethylester.

reactant | 2-(4-methoxy-phenyl)-3-methyl-1-propyl-1H-indole-5-ol | COC1=CC=C(C=C1)C=1N(C2=CC=C(C=C2C1C)O)CCC | C19H21NO2
reactant | 2-bromo-2-methyl-propanoic acid ethylester | C(C)OC(C(C)(C)Br)=O | C6H11BrO2
product | 2-[2-(4-Methoxy-phenyl)-3-methyl-1-propyl-1H-indole-5-yloxy]-2-methyl-propanoic acid ethylester | C(C)OC(C(C)(C)OC=1C=C2C(=C(N(C2=CC1)CCC)C1=CC=C(C=C1)OC)C)=O | C25H31NO4
